US07820707B2
2-[2-(3-Tert-butyl-4-hydroxymethylpyrazol-1-yl)-acetylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
Sodium borohydride (50 mg, 1.3 mmol) was added to a solution of 2-[2-(3-tert-Butyl-4-formylpyrazol-1-yl)-acetylamino]-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxamide (100 mg, 0.25 mmol) in THF (2 mL). The mixture was stirred for 1 h at ambient temperature. Water was added and the product extracted with EtOAc. The combined organics were dried over MgSO4 and concentrated under reduced pressure. The crude product was purified by flash chromatography using eluants EtOAc/heptane. The solid isolated was further purified by preparative reverse phase HPLC and passed down an SCX cartridge. The volatiles were blown off with nitrogen to give a white solid (2.4 mg, 0.61 μmol, 2%).

reactant | Sodium borohydride | 1.3 mmol, 50 mg | [BH4-].[Na+]
reactant | 2-[2-(3-tert-Butyl-4-formylpyrazol-1-yl)-acetylamino]-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxamide | 0.25 mmol, 100 mg | C(C)(C)(C)C1=NN(C=C1C=O)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C19H24N4O3S
reactant | Water | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-[2-(3-Tert-butyl-4-hydroxymethylpyrazol-1-yl)-acetylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.61 μmol, 2.4 mg, 2% | C(C)(C)(C)C1=NN(C=C1CO)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C19H26N4O3S
